US08110585B2
5-fluoro-2-methyl-2H-indazole-4-carbaldehyde
To a solution of dimethyl sulfoxide (7.56 mL, 107 mmol) in dichloromethane (100 mL) was added oxalyl chloride (4.86 mL, 53.3 mmol) at −78° C., and the mixture was stirred for 30 min. To the reaction mixture was added a solution of (5-fluoro-2-methyl-2H-indazol-4-yl)methanol (3.20 g, 17.8 mmol) in dichloromethane (78.0 mL), and the mixture was stirred for 2 hr. To the reaction mixture was added triethylamine (22.5 mL, 160 mmol) at −78° C., and the mixture was stirred for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by flash silica gel column chromatography (ethyl acetate/hexane=1/3) to give the title compound (3.00 g, yield 95%).

reactant | dimethyl sulfoxide | 107 mmol, 7.56 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 53.3 mmol, 4.86 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (5-fluoro-2-methyl-2H-indazol-4-yl)methanol | 17.8 mmol, 3.20 g | FC1=C(C2=CN(N=C2C=C1)C)CO | C9H9FN2O
reactant | triethylamine | 160 mmol, 22.5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 78.0 mL | ClCCl | CH2Cl2
product | 5-fluoro-2-methyl-2H-indazole-4-carbaldehyde | 3.00 g, yield 95% | FC1=C(C2=CN(N=C2C=C1)C)C=O | C9H7FN2O
